US07951794B2
At 5° C., o-tolyl-acetaldehyde (3.50 g, 29 mmol) is added to a mixture of POCl3 (7.5 mL, 93 mmol) and DMF (8 mL). The mixture is stirred at 70° C. for 3 h before the reaction is quenched by adding water/ice and NaOAc (17 g) and extracted with EA (2×150 mL). The solvent of the organic extract is evaporated and the product is purified by CC on silica gel eluting with heptane:EA 9:1. The resulting oil (2.5 g) is dissolved in ethanol (5 mL) and then added dropwise to a freshly prepared solution of Na (318 mg, 13.8 mmol) and ethyl-2-mercaptoacetate (1.64 g, 13.6 mmol) in ethanol (15 mL). The reaction mixture is stirred at rt for 16 h, then at 70° C. for 2 h. 3 M aq. NaOH (15 mL) is added and the mixture is stirred at 70° C. for 2 h. The mixture is cooled to rt, diluted with water and extracted with DCM. The aqueous phase is acidified with aq. HCl and extracted with EA. The organic extract is dried over MgSO4 and the solvent is evaporated to give crude 4-o-tolyl-thiophene-2-carboxylic acid (790 mg) as a brown solid; LC-MS: tR=0.91 min.

reactant | o-tolyl-acetaldehyde | 29 mmol, 3.50 g | C1(=C(C=CC=C1)CC=O)C | C9H10O
reactant | POCl3 | 93 mmol, 7.5 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | ethyl-2-mercaptoacetate | 13.6 mmol, 1.64 g | C(C)OC(CS)=O | C4H8O2S
reactant | NaOH | 3 M, 15 mL | [OH-].[Na+]
reactant | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 4-o-tolyl-thiophene-2-carboxylic acid | 790 mg | C1(=C(C=CC=C1)C=1C=C(SC1)C(=O)O)C | C12H10O2S
